### PR TITLE
Add endomorphism monoids and monoidal scalars

### PR DESCRIPTION
**Pull request by LionOfJewdah**
# Add endomorphism monoids and monoidal scalars

## Summary

This PR adds a small API for endomorphism monoids for any object in any category, and one for the scalars of a monoidal category (the endomorphisms of the monoidal unit object).

In a monoidal category, the scalars are the endomorphisms of the tensor unit. This PR packages that as a monoid and provides the standard left and right scalar actions on arbitrary hom-sets.

This PR is independent of #534.

## Changes

- Add `Categories.Morphism.Endomorphism`
  - `End X`
  - `End-∘-Monoid X`

- Add `Categories.Category.Monoidal.Scalars`
  - `Scalar`
  - `Scalar-Monoid`
  - scalar multiplication `_·ₛ_` and unit `idₛ`
  - left and right scalar actions `_·ˡ_` and `_·ʳ_`
  - action congruence lemmas
  - identity/action composition laws
  - `unit-merge`, a small coherence lemma for maps into the monoidal unit

## References

The terminology follows the nLab page on [scalars](https://ncatlab.org/nlab/show/scalar), where scalars are discussed as the endomorphism ring of the tensor unit in dagger-, compact-, and closed monoidal categories.

This is also the scalar notion used in Abramsky and Coecke, [“A categorical semantics of quantum protocols”](https://arxiv.org/abs/quant-ph/0402130), §6, LiCS 2004, [doi:10.1109/LICS.2004.1319636](https://doi.org/10.1109/LICS.2004.1319636). I would like to prove the ring structure of these scalars on a compact-closed category in follow-up PR, perhaps the same PR in which I plan to construct the Joyal-Street-Verity trace.

## Validation

- `agda -Werror src/Categories/Morphism/Endomorphism.agda`
- `agda -Werror src/Categories/Category/Monoidal/Scalars.agda`
- `make test`

### CODE REVIEW

File: src/Categories/Morphism/Endomorphism.agda [hunk 1]
```diff
@@ -0,0 +1,31 @@
...
+open import Categories.Category.Core using (Category)
+
+module Categories.Morphism.Endomorphism {o ℓ e} (𝒞 : Category o ℓ e) where
+
+open import Algebra.Bundles using (Monoid)
+open import Data.Product using (_,_)
+
+open Category 𝒞
+
+End : Obj → Set _
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Endomorphism.agda]: Since 'End' is already used in category theory mean something quite different, please rename to `Endo`.

File: src/Categories/Morphism/Endomorphism.agda [hunk 2]
```diff
@@ -0,0 +1,31 @@
+{-# OPTIONS --without-K --safe #-}
+
+open import Categories.Category.Core using (Category)
+
+module Categories.Morphism.Endomorphism {o ℓ e} (𝒞 : Category o ℓ e) where
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Endomorphism.agda]: Actually should be `Categories.Object.Endomorphism` as these are the endomorphisms of objects, not of morphisms.

File: src/Categories/Category/Monoidal/Scalars.agda [hunk 3]
```diff
@@ -0,0 +1,103 @@
...
+  id-·ʳ : ∀ {f : A ⇒ B} → f ·ʳ idₛ ≈ f
+  id-·ʳ {f = f} = begin
+    ρ⇒ ∘ (f ⊗₁ idₛ) ∘ ρ⇐  ≈⟨ pullˡ unitorʳ-commute-from ⟩
+    (f ∘ ρ⇒) ∘ ρ⇐         ≈⟨ cancelʳ unitorʳ.isoʳ ⟩
+    f                     ∎
+
+  ·ˡ-∘ : ∀ {s t : Scalar} {f : B ⇒ C} {g : A ⇒ B} →
+    (s ·ₛ t) ·ˡ (f ∘ g) ≈ (s ·ˡ f) ∘ (t ·ˡ g)
+  ·ˡ-∘ {s = s} {t} {f} {g} = begin
+    λ⇒ ∘ ((s ·ₛ t) ⊗₁ (f ∘ g)) ∘ λ⇐                   ≈⟨ refl⟩∘⟨ ⊗-distrib-over-∘ ⟩∘⟨refl ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Scalars.agda]: these two lines are some sort of push/pull of ⊗-distrib-over-∘ (on the right of a refl⟩∘⟨)

File: src/Categories/Category/Monoidal/Scalars.agda [hunk 4]
```diff
@@ -0,0 +1,103 @@
...
+    λ⇒ ∘ ((s ⊗₁ f) ∘ (t ⊗₁ g)) ∘ λ⇐                   ≈⟨ refl⟩∘⟨ assoc ⟩
+    λ⇒ ∘ ((s ⊗₁ f) ∘ ((t ⊗₁ g) ∘ λ⇐))                 ≈⟨ refl⟩∘⟨ refl⟩∘⟨ insertˡ unitorˡ.isoˡ ⟩
+    λ⇒ ∘ ((s ⊗₁ f) ∘ (λ⇐ ∘ (λ⇒ ∘ ((t ⊗₁ g) ∘ λ⇐))))   ≈⟨ refl⟩∘⟨ sym-assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Scalars.agda]: there are funky associators in `Reasoning` that do this in one go.

File: src/Categories/Category/Monoidal/Scalars.agda [hunk 5]
```diff
@@ -0,0 +1,103 @@
...
+    λ⇒ ∘ (((s ⊗₁ f) ∘ λ⇐) ∘ (λ⇒ ∘ ((t ⊗₁ g) ∘ λ⇐)))   ≈⟨ sym-assoc ⟩
+    (λ⇒ ∘ ((s ⊗₁ f) ∘ λ⇐)) ∘ (λ⇒ ∘ ((t ⊗₁ g) ∘ λ⇐))   ∎
+
+  ·ʳ-∘ : ∀ {s t : Scalar} {f : B ⇒ C} {g : A ⇒ B} →
+    (f ∘ g) ·ʳ (s ·ₛ t) ≈ (f ·ʳ s) ∘ (g ·ʳ t)
+  ·ʳ-∘ {s = s} {t} {f} {g} = begin
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Scalars.agda:84]: some comments as above.

File: src/Categories/Category/Monoidal/Scalars.agda [hunk 6]
```diff
@@ -0,0 +1,103 @@
...
+    ρ⇒ ∘ ((f ⊗₁ s) ∘ (g ⊗₁ t)) ∘ ρ⇐                   ≈⟨ refl⟩∘⟨ assoc ⟩
+    ρ⇒ ∘ ((f ⊗₁ s) ∘ ((g ⊗₁ t) ∘ ρ⇐))                 ≈⟨ refl⟩∘⟨ refl⟩∘⟨ insertˡ unitorʳ.isoˡ ⟩
+    ρ⇒ ∘ ((f ⊗₁ s) ∘ (ρ⇐ ∘ (ρ⇒ ∘ ((g ⊗₁ t) ∘ ρ⇐))))   ≈⟨ refl⟩∘⟨ sym-assoc ⟩
+    ρ⇒ ∘ (((f ⊗₁ s) ∘ ρ⇐) ∘ (ρ⇒ ∘ ((g ⊗₁ t) ∘ ρ⇐)))   ≈⟨ sym-assoc ⟩
+    (ρ⇒ ∘ ((f ⊗₁ s) ∘ ρ⇐)) ∘ (ρ⇒ ∘ ((g ⊗₁ t) ∘ ρ⇐))   ∎
+
+  unit-merge : ∀ {f : A ⇒ unit} {g : B ⇒ unit} →
+    f ∘ ρ⇒ ∘ (id ⊗₁ g) ≈ λ⇒ ∘ (f ⊗₁ g)
+  unit-merge {f = f} {g} = begin
+    f ∘ ρ⇒ ∘ (id ⊗₁ g)              ≈⟨ sym-assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Scalars.agda]: Next 2 are some kind of push/pull, ditto for the two after.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
A bunch of picky remarks, otherwise this is a nice contribution that is very close to being ready to merge.

**Comment by LionOfJewdah** [comment]
Thank you, Jacques. Hope this is a useful contribution :)

**Comment by LionOfJewdah** [comment]
I hope the Eckmann Hilton argument module I added is acceptable. I re-read the argument and thought, especially since nothing depends on this PR because it's open, it's worth adding the proof that monoidal category scalars are always commutative and packaging `Scalar-Monoid` as a stdlib CommutativeMonoid instead of just a Monoid

**Review by JacquesCarette — APPROVED** [review]
Very nice!
